US08859544B2
3-Amino-6-[(1-methoxy-2-methylindolizin-3yl)carbonyl]quinazoline-2,4(1H,3H)-dione
0.123 g (0.41 mmol) of triphosgene is added, under an inert atmosphere at ambient temperature, to 0.2 g (0.6 mmol) of methyl 2-amino-5-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]benzoate in 10 ml of dioxane. After stirring for 10 minutes, 58 μl (1.2 mmol) of hydrazine hydrate and 0.4 ml (3 mmol) of triethylamine are added. The reaction medium is stirred for 3 hours and then hydrolysed with water. The aqueous phase is extracted with ethyl acetate. The organic phase obtained is dried over sodium sulphate, filtered, and then concentrated under reduced pressure. The solid obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (95/5) mixture. 16 mg of a yellow solid are obtained.

reactant | triphosgene | 0.41 mmol, 0.123 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methyl 2-amino-5-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]benzoate | 0.6 mmol, 0.2 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C | C19H18N2O4
reactant | hydrazine hydrate | 1.2 mmol, 58 μl | O.NN
reactant | triethylamine | 3 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-Amino-6-[(1-methoxy-2-methylindolizin-3yl)carbonyl]quinazoline-2,4(1H,3H)-dione | 16 mg | NN1C(NC2=CC=C(C=C2C1=O)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)=O | C19H16N4O4
